US05352796
Nα -Boc-4-Nitrophenyl-D-alanine (209 grams, 0.68 mole) was dissolved in 500 mL of ethyl alcohol and acidified with acetic acid (10 mL). To this was added 0.65 g of 10% Pd/carbon, and the mixture was hydrogenated at about room temperature using H2 at about 40 psi until the uptake of hydrogen had ceased (6 hours). The catalyst was removed by filtration, and the reaction products were concentrated under vacuum to yield a viscous oil that solidified upon trituration with petroleum ether. The amino acid was collected by filtration, washed with petroleum ether and dried to give 184 g of Nα -Boc-4-aminophenyl-D-alanine (0.659 mole, 97%) having [α]D =-40.2° (c=1.0 in EtOAc) and -23.4° (c=1.0 in MeOH); mp=128°-133° C.

reactant | Nα -Boc-4-Nitrophenyl-D-alanine | 0.68 mole, 209 grams | C(=O)(OC(C)(C)C)N([C@H](C)C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H18N2O6
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 500 mL | C(C)O | C2H6O
catalyst | Pd carbon | 0.65 g | [Pd].[C]
product | Nα -Boc-4-aminophenyl-D-alanine | 0.659 mole, 184 g, 97% | C(=O)(OC(C)(C)C)N([C@H](C)C(=O)O)C1=CC=C(C=C1)N | C14H20N2O4
